US06008229
To a suspension of 8-[2,6-dichloro-3-glycylaminobenzyloxy]-2-methylquinoline (2.14 g) in tetrahydrofuran (21 ml) was dropwise added 2M borane-methylsulfide complex in tetrahydrofuran (5.48 ml) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 15 minutes at the same temperature and refluxed for 6 hours. After cooling, the mixture was adjusted to pH 1 with 1N hydrochloric acid and refluxed for 30 minutes. The mixture was neutralized with saturated sodium bicarbonate solution and extracted with chloroform. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (chloroform) to give 8-[3-[N-(2-aminoethyl)amino]-2,6-dichlorobenzyloxy]-2-methylquinoline (525 mg) as colorless amorphous.

reactant | 8-[2,6-dichloro-3-glycylaminobenzyloxy]-2-methylquinoline | 2.14 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1NC(CN)=O)Cl | C19H17Cl2N3O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.48 ml | O1CCCC1 | C4H8O
product | 8-[3-[N-(2-aminoethyl)amino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 525 mg | NCCNC=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C19H19Cl2N3O
